data/oMe_Silver.jsonl
{"reaction_id": "NR-320_1-F_2-C_3-N(C)C_4-C#CC_5-C#N_6-c1ccccc1_7-C1CCCCC1","level": "hard","name": "Willgerodt-Kindler Reaction","reactants_smiles": ["CC(=O)c1c(F)c(C)c(N(C)C)c(C#CC)c1(C#N)","N(c1ccccc1)(C1CCCCC1)","S1SSSSSSS1"],"products_smiles": ["N(c1ccccc1)(C1CCCCC1)C(=S)Cc1c(F)c(C)c(N(C)C)c(C#CC)c1(C#N)"],"conditions": "Heat","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C=C(N(c1ccccc1)(C1CCCCC1))c1c(F)c(C)c(N(C)C)c(C#CC)c1(C#N)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by resonance withdrawal from the aromatic ring, forming an imine-like intermediate after dehydration."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+](c1ccccc1)(C1CCCCC1)=C(c1c(F)c(C)c(N(C)C)c(C#CC)c1(C#N))CSSSSSSS[S-]","step_weight": 0,"rationale": "The iminium carbon is electrophilic; polysulfide sulfur attacks, displacing a leaving group due to sulfur’s high nucleophilicity and polarizability."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(c1ccccc1)(C1CCCCC1)C(c1c(F)c(C)c(N(C)C)c(C#CC)c1(C#N))=CSSSSSSSS","step_weight": 0,"rationale": "Proton transfer stabilizes the intermediate by neutralizing charge, driven by the basicity of nitrogen and the polar environment."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(c1ccccc1)(C1CCCCC1)C(c1c(F)c(C)c(N(C)C)c(C#CC)c1(C#N))C=[S+]SSSSSSSS","step_weight": 0,"rationale": "Another proton shift occurs to activate the sulfur atom for subsequent nucleophilic addition, aligning charges for stability."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N+](c1ccccc1)(C1CCCCC1)2C(c1c(F)c(C)c(N(C)C)c(C#CC)c1(C#N))C2SSSSSSSS","step_weight": 0,"rationale": "Nucleophilic sulfur attacks the activated iminium carbon, favored by the soft–soft interaction between sulfur and the polarized carbon."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C(c1c(F)c(C)c(N(C)C)c(C#CC)c1(C#N))=C(N(c1ccccc1)(C1CCCCC1))SSSSSSSS","step_weight": 0,"rationale": "Elimination of a proton restores conjugation and relieves ring strain, driven by thermodynamic stability of the conjugated system."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1c(F)c(C)c(N(C)C)c(C#CC)c1(C#N))C(N(c1ccccc1)(C1CCCCC1))=[S+]SSSSSSS","step_weight": 0,"rationale": "Proton transfer reorganizes the intermediate to place positive charge on sulfur, enhancing its leaving group ability for the next substitution."},{"step": 8,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "N(c1ccccc1)(C1CCCCC1)C(=S)Cc1c(F)c(C)c(N(C)C)c(C#CC)c1(C#N)","step_weight": 0,"rationale": "Final nucleophilic substitution by amine on the thiocarbonyl carbon occurs, favored by the electrophilicity of C=S and the good leaving ability of polysulfide."}],"description": "Under heating, the Willgerodt–Kindler reaction converts an aryl methyl ketone into a thiocarbonyl amide via sequential nucleophilic substitutions, proton transfers, and rearrangements. The amine and polysulfide react to form a thioamide, driven by resonance stabilization and favorable leaving group departure under thermal conditions."}
{"reaction_id": "NR-326_1-c1ccc(OC)cc1_2-C#N","level": "easy","name": "Wolff Rearrangement","reactants_smiles": ["C(c1ccc(OC)cc1)(=O)C(=[N+]=[N-])C#N"],"products_smiles": ["O=C=C(C#N)c1ccc(OC)cc1"],"conditions": "Heat, light, or metal catalyst (e.g., Ag2O)","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(OC)cc1)(=O)[C]C#N","step_weight": 0,"rationale": "Heating or catalysis promotes N₂ loss from the diazo group, favored by the excellent leaving ability of nitrogen and stabilization of the adjacent carbene by the carbonyl through resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=C(C#N)c1ccc(OC)cc1","step_weight": 0,"rationale": "The electron-deficient carbene undergoes a 1,2-shift of c1ccc(OC)cc1 to stabilize via ketene formation, driven by conjugation between C=C=O and relief of carbene instability."}],"description": "Under thermal, photochemical, or metal-catalyzed conditions, the α-diazoketone loses nitrogen gas to form a reactive carbene. This intermediate undergoes a 1,2-shift, driven by carbene instability and the formation of a conjugated ketene, yielding the rearranged product."}
